US08017637B2
5.5′-[(methylimino)bis(propane-3,1-diylimino)]bis(2-methyl-1,3-benzothiazole-4,7-dione)
83.4 mg (0.57 mmol; 0.6 equivalents) of N-(3-aminopropyl)-N-methylpropane-1,3-diamine are added to 200 mg (0.95 mmol) of 5-methoxy-2-methyl-4,7-dioxobenzothiazole in solution in 15 ml of anhydrous ethanol. The reaction mixture is stirred at 60° C. for 2 hours, then the solvent is evaporated off under reduced pressure. The residue is purified on a silica column (eluent: methanol at 3% in dichloromethane) and 30 mg (yield=36%) of expected product is obtained in the form of a red powder. Melting point: 94-96° C.

reactant | N-(3-aminopropyl)-N-methylpropane-1,3-diamine | 0.57 mmol, 83.4 mg, 0.6 equivalents | NCCCN(CCCN)C | C7H19N3
reactant | 5-methoxy-2-methyl-4,7-dioxobenzothiazole | 0.95 mmol, 200 mg | COC1=CC(C2=C(N=C(S2)C)C1=O)=O | C9H7NO3S
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 5.5′-[(methylimino)bis(propane-3,1-diylimino)]bis(2-methyl-1,3-benzothiazole-4,7-dione) | 30 mg, yield=36% | CN(CCCNC1=CC(C2=C(N=C(S2)C)C1=O)=O)CCCNC1=CC(C2=C(N=C(S2)C)C1=O)=O | C23H25N5O4S2
